* Z:\home\danieltyukov\workspace\tud\tud-analog-cmos-design-1\hw2\discrete_time_fully_differential_folded_cascode_amplifier_unloaded.asc
Mp1 Vsp Vbp Vddb Vddb pch l={L} w={W} m={Mp}
Mp2 Vbp Vcp Vsp Vddb pch l={L} w={W} m={Mp}
Mp3 Vcp Vcp Vddb Vddb pch l={L} w={W} m={Mp}
Mn1 Vsn Vbn 0 0 nch l={L} w={W} m={Mn}
Mn2 Vbn Vcn Vsn 0 nch l={L} w={W} m={Mn}
Mn3 Vcn Vcn 0 0 nch l={L} w={W} m={Mn}
Ibm Vbp Vbn {Ibm}
Ibn Vddb Vcn {Ibm*Rn}
Ibp Vcp 0 {Ibm*Rp}
V1 Vddb 0 1.8
V2 Vdd 0 1.8
C1 Vdd Vbp {Cbig}
C2 Vdd Vsp {Cbig}
C3 Vdd Vcp {Cbig}
C4 0 Vbn {Cbig}
C5 0 Vsn {Cbig}
C6 0 Vcn {Cbig}
E1 N002 Vbcm N003 Vbn 1
R1 N002 Voutn {Rbig}
R2 Voutp N002 {Rbig}
C7 Voutp Vbcm {Cfb}
C8 Voutn Vbcm {Cfb}
Vcm N003 0 0.9
E2 N005 Vpl Vgpp Vgpn {Aadd/2}
E3 Vpr N005 Vgpp Vgpn {Aadd/2}
E4 N005 0 Vcp 0 1
E5 N006 Vnl Vgnp Vgnn {Aadd/2}
E6 Vnr N006 Vgnp Vgnn {Aadd/2}
E7 N006 0 Vcn 0 1
Mp1.2 Vgpn Vbp Vdd Vdd pch l={L} w={W} m={Mp13}
Mn5.2 Vgnn Vbcm 0 0 nch l={L} w={W} m={Mn56}
Mp2.2 Voutp Vpr Vgpn Vdd pch l={L} w={W} m={Mp24}
Mn6.2 Voutp Vnr Vgnn 0 nch l={L} w={W} m={Mn56}
Mp3.2 Vgpp Vbp Vdd Vdd pch l={L} w={W} m={Mp13}
Mn7.2 Vgnp Vbcm 0 0 nch l={L} w={W} m={Mn78}
Mp4.2 Voutn Vpl Vgpp Vdd pch l={L} w={W} m={Mp24}
Mn8.2 Voutn Vnl Vgnp 0 nch l={L} w={W} m={Mn78}
Mn4.2 Vgpp Vin N001 0 nch l={L} w={W} m={Mn34}
Mn3.2 Vgpn Vip N001 0 nch l={L} w={W} m={Mn34}
Mn2.2 N001 Vbcn N004 0 nch l={L} w={W} m={Mn12}
Mn1.2 N004 Vbn 0 0 nch l={L} w={W} m={Mn12}
E15 Vbcn 0 Vcn 0 1
C11 0 Voutn {Cload}
C12 0 Voutp {Cload}
L1 Vinpn Vin {Lbig}
L2 Vip Vinpp {Lbig}
R5 Voutp Vinpp {Rfb}
C13 Voutp Vinpp {Cfb}
R6 Vinpn Voutn {Rfb}
C14 Vinpn Voutn {Cfb}
R7 N007 Vinpn {Rin}
C15 N007 Vinpn {Cin}
R8 N007 Vinpp {Rin}
C16 N007 Vinpp {Cin}
V3 Vin N008 AC 0.5 180
V4 Vip N008 AC 0.5 180
V5 N008 0 0.9
V6 N007 0 0.9
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\danieltyukov\Documents\LTspiceXVII\lib\cmp\standard.mos
.param W=1u L=0.18u Mp=60 Mn=11 Ibm=200u Rn=5.8 Rp=7.5 mp_ratio={Mp/Mn}
.lib 'C:\Program Files\LTC\LTspiceXVII\lib\cmp\logic018 no1of.l' TT
* Biasing Circuit
* Biasing Voltage Source
* Voltage Source
.param Cbig=1000n Lbig=1000 Rbig=100G Rin=100G
* Decoupling Capacitors
* Ideal CMFB Unloaded
* Ideal Gain-Boosting PMOS\nUnloaded
* Ideal Gain-Boosting NMOS\nUnloaded
* Ideal\nGain-Boosting\nPMOS
* Ideal\nCMFB
* Ideal\nGain-Boosting\nNMOS
* OpAmp with ideal Gain-Boosting Unloaded
* Vsp & Vsn are used for ration & ratiop determination, unused in the opamp
* Vbcn
* OpAmp in Feedback Unloaded
.param Aadd=100 Cfb={Cin/8} Rfb={Rin*8} Cload={Cin}
.param Mn12={4*ScaleA} Mn56={2*ScaleA} Mn78={2*ScaleA} Mp13={4*ScaleA*mp_ratio} Mp24={2*ScaleA*mp_ratio}
.param Mn34={2*ScaleA} ScaleA=1 Cin=1.5p
.op
.backanno
.end
